US05199970
Preparation of N,N-diethyl-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid amide (compound No. 9)
3.4 g (0.046 mol) of diethylamine and 4.8 g (0.47 mol) of triethylamine dissolved in 10 ml of benzene are dropped into the solution of 15.6 g (0.045 mol) of 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride in 40 ml of anhydrous benzene at 0°-5° C. under stirring. After termination of the portionwise addition, the reaction mixture is stirred for additional 2 hours whilst it is allowed to warm to room temperature. The mixture is filtered off, the precipitate is washed with a little volume of ether, the filtrate is washed first with 5% hydrochloric acid and then with saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and finally evaporated to dryness. The crude product is purified by chromatography on a column filled with silica gel of 0.063-0.2 mm particle size by using a 4:1 mixture of n-hexane/acetone for elution.

reactant | diethylamine | 0.046 mol, 3.4 g | C(C)NCC | C4H11N
reactant | triethylamine | 0.47 mol, 4.8 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionyl chloride | 0.045 mol, 15.6 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F | C15H11ClF3NO3
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N,N-diethyl-2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionic acid amide | C(C)N(C(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)CC | C19H21F3N2O3
